US07342118B2
3-Methyl-3-(4-nitro-imidazol-1-yl)-butyric acid methyl ester
4-nitroimidazole was reacted with methyl-3,3-dimethylacrylate to provide the title compound: 1H NMR (400 MHz, CDCl3) 1.74 (s, 6H), 2.81 (s, 2H), 3.57 (s, 3H), 7.57 (d, 1H, J=1.3 Hz), 7.90 (d, 1H, J=1.6 Hz); MS m/z 228.2 (M+1).

reactant | 4-nitroimidazole | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | methyl-3,3-dimethylacrylate | COC(C=C(C)C)=O | C6H10O2
product | 3-Methyl-3-(4-nitro-imidazol-1-yl)-butyric acid methyl ester | COC(CC(C)(N1C=NC(=C1)[N+](=O)[O-])C)=O | C9H13N3O4
